US07018988B2
(2S,4EZ)-4-benzylidene-1-[(4-chlorophenoxy)acetyl]-N-(3,4dimethoxybenzyl)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-4-benzylidene-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid, (4-chlorophenoxy)acetyl chlo-ride, and 3,4-dimethoxybenzylamine the title compound was obtained in 49% purity by LC/MS. MS(ESI+): m/z=521.6.

reactant | (2S,4EZ)-4-benzylidene-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid | C(C1=CC=CC=C1)=C1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)O | C17H21NO4
reactant | (4-chlorophenoxy)acetyl chlo-ride | ClC1=CC=C(OCC(=O)Cl)C=C1 | C8H6Cl2O2
reactant | 3,4-dimethoxybenzylamine | COC=1C=C(CN)C=CC1OC | C9H13NO2
product | (2S,4EZ)-4-benzylidene-1-[(4-chlorophenoxy)acetyl]-N-(3,4dimethoxybenzyl)-2-pyrrolidinecarboxamide | C(C1=CC=CC=C1)=C1C[C@H](N(C1)C(COC1=CC=C(C=C1)Cl)=O)C(=O)NCC1=CC(=C(C=C1)OC)OC | C29H29ClN2O5
